US04623664
Formation of Phenylephrine Base
Phenylephrine HCl (0.3 g, 1.47 mmole) was dissolved in 3 ml of water in a test tube to which was added 1 ml of ammonia T.S. The interior of the test tube was rubbed with a glass rod to initiate the precipitation of the free base. The phenylephrine was separated by filtration and washed with about 1 ml of ice-cold water and finally dried over silica gel for 16 hours. IR (KBr) measurements were made to confirm the preparation of the phenylephrine base.

reactant | Phenylephrine HCl | 1.47 mmole, 0.3 g | CNC[C@@H](C=1C=CC=C(C1)O)O.Cl
reactant | ammonia | 1 ml | N | H3N
solvent | water | 3 ml | O | H2O
product | Phenylephrine | CNC[C@@H](C=1C=CC=C(C1)O)O | C9H13NO2
